// Generated for: spectre
// Generated on: Dec  4 16:42:29 2019
// Design library name: CHARACTERIZATION
// Design cell name: DC_BIAS_NMOS
// Design view name: schematic
simulator lang=spectre
global 0
parameters VGS=1 VDS=0.2
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/config.scs" section=default
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/param.scs" section=3s
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/bip.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/cap.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/dio.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/mos.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/photo.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/res.scs" section=tm

// Library name: CHARACTERIZATION
// Cell name: DC_BIAS_NMOS
// View name: schematic
M0 (net3 net2 0 0) ne w=2u l=180.0n as=9.6e-13 ad=9.6e-13 ps=4.96e-06 \
        pd=4.96e-06 nrs=0.135 nrd=0.135 m=(1)*(1) par1=((1)*(1)) \
        xf_subext=0
V1 (net3 0) vsource dc=VDS type=dc
V0 (net2 0) vsource dc=VGS type=dc
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc param=VGS start=0 stop=1.8 step=.1 write="spectre.dc" \
    oppoint=rawfile maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save M0:1 
saveOptions options save=allpub
